US04539426
N-[3-[[2-(3,4-Dimethoxyphenyl)ethyl]methylamino]propyl]-N-(1-methylethyl)-3,4-dichloro-benzenesulfonamide
N-(3-Chloropropyl)-N-isopropyl-3,4-dichlorobenzenesulfonamide, prepared by reacting 3,4-dichlorobenzenesulfonyl chloride with 3-hydroxypropylamine followed by N-alkylation with 2-bromopropane and displacement of the hydroxyl group by chlorine, (13.94 g),N--CH3 homoveratrylamine (8.23 g), K2CO3 (2.90 g) and Cs2CO3 (7.39 g) in xylene (300 mL) was heated and stirred for 5 days. The reaction was cooled, filtered and stripped to provide a partially solid crude product which was stirred with diethyl ether, filtered and the filtrate stripped to provide 17.11 g. This material was chromatographed on dry-column silica gel (500 g) using ethyl acetate to provide the product which was recrystallized from diethyl ether-hexane to give the impure product (3.95 g)(m.p. 62°-64° C.). A second recrystallization from diethyl ether-hexane provided pure product (3.57 g, m.p. 65°-66° C.).

reactant | N-(3-Chloropropyl)-N-isopropyl-3,4-dichlorobenzenesulfonamide | ClCCCN(S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)C(C)C | C12H16Cl3NO2S
reactant | 3,4-dichlorobenzenesulfonyl chloride | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | 3-hydroxypropylamine | OCCCN | C3H9NO
reactant | 2-bromopropane | BrC(C)C | C3H7Br
reactant | chlorine | 13.94 g | ClCl | Cl2
reactant | K2CO3 | 2.90 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Cs2CO3 | 7.39 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | xylene | 300 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[3-[[2-(3,4-Dimethoxyphenyl)ethyl]methylamino]propyl]-N-(1-methylethyl)-3,4-dichloro-benzenesulfonamide | 3.95 g | COC=1C=C(C=CC1OC)CCN(CCCN(S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)C(C)C)C | C23H32Cl2N2O4S
